US04021229
Preparation of N-propargyl benzenesulfonamide
To 8.6 g. piloty acid dissolved in 50 ml. methanol, propargyl bromine (6.6 g.) was added. 10.8 g. sodium methoxide (25%) was added slowly dropwise. An exothermic reaction resulted, the temperature was maintained at 30° C. The reaction mixture was stirred for approximately 1 hour at room temperature. The solvent was removed in vacuo. There was obtained a yellow solid. This material was treated with ether and the solid filtered off and dried. There was obtained 3.1 g. of the title compound, a low melting solid.

reactant | piloty acid | C1=CC=C(C=C1)S(=O)(=O)NO | C6H7NO3S
reactant | methanol | CO | CH4O
reactant | propargyl bromine | 6.6 g | C(C#C)Br | C3H3Br
reactant | sodium methoxide | C[O-].[Na+]
solvent | ether | CCOCC | C4H10O
product | N-propargyl benzenesulfonamide | C(C#C)NS(=O)(=O)C1=CC=CC=C1 | C9H9NO2S
